US08536097B2
Step 5: Synthesis of methyl 2-methyl-3-(methylthio)-4-(pentafluoroethyl)benzoate
2.1 g (7.34 mmol) of methyl 3-fluoro-2-methyl-4-(pentafluoroethyl)benzoate were introduced into 20 ml of N,N-dimethylformamide and then admixed with 758 mg (95% by weight; 10.3 mmol) of sodium thiomethoxide. The mixture was stirred at RT for 2 hours and then freed from the solvent. The residue was taken up in ethyl acetate and water, the aqueous phase was extracted twice with ethyl acetate, and, finally, the combined organic phases were dried and freed from the solvent. The residue was purified by chromatography, giving 1.28 g of clean product.

reactant | methyl 3-fluoro-2-methyl-4-(pentafluoroethyl)benzoate | 7.34 mmol, 2.1 g | FC=1C(=C(C(=O)OC)C=CC1C(C(F)(F)F)(F)F)C | C11H8F6O2
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | sodium thiomethoxide | 10.3 mmol, 758 mg | C[S-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-methyl-3-(methylthio)-4-(pentafluoroethyl)benzoate | 1.28 g | CC1=C(C(=O)OC)C=CC(=C1SC)C(C(F)(F)F)(F)F | C12H11F5O2S
